US05037829
To a refluxing solution of 2 parts of intermediate 59, namely ethyl [4-(hydroxyphenylmethyl)-2-[[(tetrahydro-2H-pyran-2-yl)oxy]methyl]phenyl]carbamate, in 33.3 parts of dichloromethane was added dropwise a solution of 1.8 parts of 1,1'-carbonyl-bis[1H-imidazole] in 20 parts of dichloromethane. After stirring for 3 days at reflux temperature, the reaction mixture was cooled and washed with water (2×). The organic layer was dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CHCl3 /C2H5OH 98:2). The eluent of the desired fraction was evaporated and the residue was left to crystallize. The crystallized product was filtered off, stirred in hexane and dried in vacuo, yielding 0.67 parts (41.1%) of ethyl [4-[(1H-imidazol-1-yl)phenylmethyl]-2-[[(tetrahydro-2H-pyran-2-yl)oxy]methyl]-phenyl]carbamate; mp. 132.2° C. (interm. 60).

reactant | ethyl [4-(hydroxyphenylmethyl)-2-[[(tetrahydro-2H-pyran-2-yl)oxy]methyl]phenyl]carbamate | OC(C1=CC(=C(C=C1)NC(OCC)=O)COC1OCCCC1)C1=CC=CC=C1 | C22H27NO5
reactant | 1,1'-carbonyl-bis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl [4-[(1H-imidazol-1-yl)phenylmethyl]-2-[[(tetrahydro-2H-pyran-2-yl)oxy]methyl]-phenyl]carbamate | 41.1% | N1(C=NC=C1)C(C1=CC(=C(C=C1)NC(OCC)=O)COC1OCCCC1)C1=CC=CC=C1 | C25H29N3O4
